US09328067B2
N-[6-(benzylsulfanyl)-1-oxo-2,3-dihydro-1H-inden-5-yl]-1-benzofuran-2-sulfonamide
Following General Procedure B, the title compound (752 mg, 47%) was prepared from 5-Amino-6-(benzylthio)-2,3-dihydro-1H-inden-1-one (463 mg, 1.72 mmol) and benzofuran-2-sulfonyl chloride (371 mg, 1.72 mmol) in pyridine (3 ml).

reactant | 5-Amino-6-(benzylthio)-2,3-dihydro-1H-inden-1-one | 1.72 mmol, 463 mg | NC=1C=C2CCC(C2=CC1SCC1=CC=CC=C1)=O | C16H15NOS
reactant | benzofuran-2-sulfonyl chloride | 1.72 mmol, 371 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-[6-(benzylsulfanyl)-1-oxo-2,3-dihydro-1H-inden-5-yl]-1-benzofuran-2-sulfonamide | 752 mg, 47% | C(C1=CC=CC=C1)SC1=C(C=C2CCC(C2=C1)=O)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2 | C24H19NO4S2
